* AD9631an Spice Macro-model
* Description: Amplifier
* Generic Desc: 350MHz op amp, unity gain
* Developed by: SMR/ADI
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (02/1997)
* Copyright 1997, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.
* Use of this model indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*     This is a second generation model of the AD9631a. 
*     In this rev, voltage and current noise are modeled. 
*     Both of these noise sources are referred to the inputs.
*
* Not Modeled:
*     Distortion is not characterized
*
* Parameters modeled include:
*    open loop gain and phase vs frequency
*    output clamping voltage and current
*    CMRR vs freq
*    Slew rate
*    Output currents are reflected to V supplies
*    Vos and Ibias are static and will not vary with Vcm.
*    Step response is modeled at unity gain w/100 ohm load 
*    and Rf =250 ohms.
*
* END Notes:
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT AD9631an 1 2 99 50 61   


* input stage *

r1 1 2 500k
cin1 1 98 1.2e-12
cin2 2 98 1.2e-12
q1 5 17 6 qn
q2 7 2 8 qn
eos 17 89 poly(1) (23,98) 3.3e-3 1
enoise 89 1 31 0 1 
gnoise 99 2 36 0 1
r3 99 5 12.94
r4 99 7 12.94
r5 6 9 12.42
r6 8 9 12.42
c2 5 7 10.26pf
itail 9 50 0.1

** v noise generation **

dn1 80 81 dn 
dn2 81 82 dn
vn3 82 0 0
rn1 82 0 340e-6
vn1 80 0 0.4

hn1 84 0 vn3 2.5
rn2 84 85 1.5
rn3 85 86 1
ln1 86 0 1.25e-9

en  30 0 85 0 1
rn4 30 31 1 
cn1 31 0 0.3nf

** i noise generation **

vn4 87 0 0
rn5 87 0 2.92k

hn2 35 0 vn4 1
rn6 35 36 1e-6
cn2 36 0 1e-1

* gain stage,clamping - open loop gain=52dB * 
* pd at 100khz *

gm1 99 10 poly(1) 7 5 0 0.077 0 1e-3
gm2 50 10 poly(1) 7 5 0 0.077 0 1e-3
r7  99 10 10350
r8  10 50 10350 
c3  99 10 76.9pf
c4  10 50 76.9pf
vcl1 99 14 1.77
vcl2 15 50 1.77
d1 10 14 dx
d2 15 10 dx

***** frequency shaping stage, zero at 200mhz

e1 11 98 10 98 10
rz1 11 12 0.9 
rz2 12 13 0.1
l1 13 98 8e-11

***** common mode reference

ecmref 98 0 poly(2) 99 0 50 0 0 0.5 0.5
einref 18 0 poly(2) 1 0 2 0 0 0.5 0.5

***** vcm generation

ecm1 19 98 18 98 27e-6
rvcm1 19 20 666e-6
rvcm2 20 21 1e-6
lcm1 21 98 1.06e-12

ecm2 22 98 20 98 833
rvcm3 22 23 832e-6
rvcm4 23 24 1e-6
lcm2 24 98 1.3e-12

***** buffer to output stage

gbuf 98 16 12 98 1e-2
rbuf1 98 16 1e2

***** output stage

fo1 98 110 vcd 1
do1 110 111 dx
do2 112 110 dx
vi1 111 98 0
vi2 98 112 0
fsy 99 50 poly(2) vi1 vi2 -0.094 1 1
iq 99 50 11e-3

go3 60 99 99 16 0.1
go4 50 60 16 50 0.1
r03 60 99 10
r04 60 50 10
vcd 60 62 0
lo1 62 61 4e-8
ro2 61 98 1e9
do5 16 70 dx
do6 71 16 dx
vo1 70 60 0.27
vo2 60 71 0.27

.model dx d(kf=1e-30 af=0 is=1e-15)
.model dn d(kf=1.16e-13 af=0 is=1e-15) 
.model qn npn(kf=1e-30 bf=6750 vaf=100 af=0)
.ends AD9631an





